US04200641
To a stirred mixture of 10 parts of 3-[(4,5-dichloro-2-nitrophenyl)amino]-1-propanol and 75 parts of trichloromethane are added dropwise 11.2 parts of sulfinyl chloride. Upon completion, stirring is continued for 4 hours at reflux temperature. The reaction mixture is evaporated and the residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding 4,5-dichloro-N-(3-chloropropyl)-2-nitrobenzenamine; mp. 78° C.

reactant | 3-[(4,5-dichloro-2-nitrophenyl)amino]-1-propanol | ClC1=CC(=C(C=C1Cl)NCCCO)[N+](=O)[O-] | C9H10Cl2N2O3
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 4,5-dichloro-N-(3-chloropropyl)-2-nitrobenzenamine | ClC1=CC(=C(C=C1Cl)NCCCCl)[N+](=O)[O-] | C9H9Cl3N2O2
